US07101903B2
Ethyl 1-(4-tert-butylbenzyl)-5-methoxy-1H-indole-2-carboxylate
The title compound was prepared from ethyl 5-methoxy-1H-indole-2-Carboxylate and 4-(tert-butyl) benzyl bromide in substantially the same manner, as described in step 1 of Example 1. The product was obtained as a solid. Mass spectrum (ESI, [M−H]−) m/z 364. 1H NMR (400 MHz, DMSO-d6) δ 7.48 (d, 1H, J=9.20 Hz), 7.27 (s, 1H), 7.24 (d, 2H, J=7.18 Hz), 7.16 (d, 1H, J=2.44 Hz), 6.96–6.92 (m, 3H), 5.77 (s, 2H), 4.28 (q, 2H), 3.76 (s, 3H), 1.28 (s, 3H), and 1.20 ppm (s, 9H).

reactant | ethyl 5-methoxy-1H-indole-2-Carboxylate | COC=1C=C2C=C(NC2=CC1)C(=O)OCC | C12H13NO3
reactant | 4-(tert-butyl) benzyl bromide | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
product | Ethyl 1-(4-tert-butylbenzyl)-5-methoxy-1H-indole-2-carboxylate | C(C)(C)(C)C1=CC=C(CN2C(=CC3=CC(=CC=C23)OC)C(=O)OCC)C=C1 | C23H27NO3
